US05403934
3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one
3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyran-4-one (2-4 g) was heated at 150° with 0.880 aqueous ammonia (30 ml) in an autoclave for 18 hours. After cooling the precipitate was filtered off, washed with water, dried in air and recrystallised from DMF to yield the title compound as fine colourless crystals (1.4 g). M.p. 258°-260°, NMR δH (d6 -DMSO) 7.70 (2H, dd, J 5, 0.5 Hz), 7.0-7.3 (6H, m), 5.97 (1H, s), 2.2 (3H, s), 2.1 (3H, s).

reactant | 3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyran-4-one | 2-4 g | FC(C1=CC=C(OC2=CC=C(C=C2)C2=C(OC(=CC2=O)C)C)C=C1)(F)F | C20H15F3O3
reactant | ammonia | 30 ml | N | H3N
product | 3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one | 1.4 g | FC(C1=CC=C(OC2=CC=C(C=C2)C2=C(NC(=CC2=O)C)C)C=C1)(F)F | C20H16F3NO2
